US04382939
8-(1,1-Dimethylethyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 1 from 3-t-butylphenol (15 g, 0.1 moles) and methyl 4-oxo-3-piperidinecarboxylate hydrochloride (19.3 g, 0.1 moles). Recrystallization from ethyl acetate gave the product (14.7 g), mp 181°-186° C.

reactant | 3-t-butylphenol | 0.1 moles, 15 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 0.1 moles, 19.3 g | Cl.O=C1C(CNCC1)C(=O)OC
product | 8-(1,1-Dimethylethyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 14.7 g | CC(C)(C)C1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C16H19NO2
